US06110962
2-Benzyl-benzofuran
A suspension of 2-benzofuranylphenyl-methanone (34.8 g, 0.157 mol), hydrazine monohydrate (31 mL, 0.639 mol) and diethylene glycol (72 mL) was heated to reflux for 10 min and cooled to room temperature. Potassium hydroxide (22.9 g, 0.408 mol) was added. The reaction mixture was heated in 130° C. oil bath for 1 h., cooled to room temperature and added to water. The oil was extracted with ether. Silica ge was added to the ether phase and the solvent was removed. The adsorbate was flash chromatographed eluent: (petroleum ether) to provide the title compound as an oil (23.9 g, 90%): NMR (CDCl3); δ7.5-7.1 (m, 9 H), 6.38 (s, 1 H), 4.10 (s, 2 H).

reactant | 2-benzofuranylphenyl-methanone | 0.157 mol, 34.8 g | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C=O | C15H10O2
reactant | hydrazine monohydrate | 0.639 mol, 31 mL | O.NN
reactant | diethylene glycol | 72 mL | C(COCCO)O | C4H10O3
reactant | Potassium hydroxide | 0.408 mol, 22.9 g | [OH-].[K+]
solvent | water | O | H2O
product | 2-Benzyl-benzofuran | 23.9 g, 90% | C(C1=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O
